US08183239B2
N-(4-{4-[Diethylcarbamoyl-(3-fluoro-phenyl)-methyl]-piperazin-1-yl}-3-fluoro-phenyl)-2-ethyl-butyramide
{4-[4-(2-Ethyl-butyrylamino)-2-fluoro-phenyl]-piperazin-1-yl}-(3-fluoro-phenyl)-acetic acid. A mixture of {4-[4-(2-ethyl-butyrylamino)-2-fluoro-phenyl]-piperazin-1-yl}-(3-fluoro-phenyl)-acetic acid methyl ester (0.22 g, 0.47 mmol) in water/MeOH (1:4, 5 mL) was treated with KOH (0.095 g, 1.70 mmol) and the resulting mixture was heated at reflux for 24 h. The mixture was cooled to rt and acidified to pH 6.5 with AcOH. The mixture was diluted with water and extracted with DCM. The organic layer was dried (Na2SO4) and concentrated to yield the title compound (0.24 g), which was carried forward to the next step.

reactant | {4-[4-(2-Ethyl-butyrylamino)-2-fluoro-phenyl]-piperazin-1-yl}-(3-fluoro-phenyl)-acetic acid | C(C)C(C(=O)NC1=CC(=C(C=C1)N1CCN(CC1)C(C(=O)O)C1=CC(=CC=C1)F)F)CC | C24H29F2N3O3
reactant | {4-[4-(2-ethyl-butyrylamino)-2-fluoro-phenyl]-piperazin-1-yl}-(3-fluoro-phenyl)-acetic acid methyl ester | 0.47 mmol, 0.22 g | COC(C(C1=CC(=CC=C1)F)N1CCN(CC1)C1=C(C=C(C=C1)NC(C(CC)CC)=O)F)=O | C25H31F2N3O3
reactant | KOH | 1.70 mmol, 0.095 g | [OH-].[K+]
reactant | AcOH | CC(=O)O | C2H4O2
solvent | water MeOH | 5 mL | O.CO
solvent | water | O | H2O
product | N-(4-{4-[Diethylcarbamoyl-(3-fluoro-phenyl)-methyl]-piperazin-1-yl}-3-fluoro-phenyl)-2-ethyl-butyramide | 0.24 g | C(C)N(C(=O)C(N1CCN(CC1)C1=C(C=C(C=C1)NC(C(CC)CC)=O)F)C1=CC(=CC=C1)F)CC | C28H38F2N4O2
